US08912219B2
Step 4: N-methyl-N-phenyl-1H-imidazole-1-sulfonamide
To a solution of 1-(1H-imidazol-1-ylsulfonyl)-3-methyl-1H-imidazol-3-ium trifluoromethanesulfonate (3 g, 8.3 mmol) in dry CH3CN (dried over MgSO4) was added N-methylaniline (740 mg, 6.9 mmol) under nitrogen. The mixture was stirred at room temperature for 16 h. After the solvent was removed, the residue was extracted with EtOAc (50 mL×3). The organic layer was washed with brine (50 mL) and water (50 mL). After the solvent was removed, the residue was purified by column chromatography (eluting with 30˜60% EtOAc) to give the title compound, which was used in next step without further purification (1 g, 51%). LCMS (ESI): m/z 237.9 [M+H+].

reactant | 1-(1H-imidazol-1-ylsulfonyl)-3-methyl-1H-imidazol-3-ium trifluoromethanesulfonate | 8.3 mmol, 3 g | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C=[N+](C=C1)C
reactant | N-methylaniline | 6.9 mmol, 740 mg | CNC1=CC=CC=C1 | C7H9N
solvent | CH3CN | CC#N | C2H3N
product | N-methyl-N-phenyl-1H-imidazole-1-sulfonamide | CN(S(=O)(=O)N1C=NC=C1)C1=CC=CC=C1 | C10H11N3O2S
